US07732435B2
7-Amino-3-(4-chlorophenyl)-8-hydroxy-2-isopropyl-chromen-4-one
To a suspension of 7-(4-chlorophenyl)-8-isopropyl-2-methyl-chromeno[7,8-d]oxazol-6-one (650 mg, 1.84 mmol) in methanol (30 ml) is added concentrated HCl (5 ml). The reaction mixture is stirred at 70° C. for 1 h. The solvent is removed in vacuo, and the product is partitioned between CH2Cl2 and a saturated solution of NaHCO3. The organic phase is washed with water and brine, dried (MgSO4) and concentrated in vacuo to give the title compound as a pale yellow solid.

reactant | 7-(4-chlorophenyl)-8-isopropyl-2-methyl-chromeno[7,8-d]oxazol-6-one | 1.84 mmol, 650 mg | ClC1=CC=C(C=C1)C1=C(OC2=C(C1=O)C=CC=1N=C(OC12)C)C(C)C | C20H16ClNO3
reactant | HCl | 5 ml | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
product | 7-Amino-3-(4-chlorophenyl)-8-hydroxy-2-isopropyl-chromen-4-one | NC1=CC=C2C(C(=C(OC2=C1O)C(C)C)C1=CC=C(C=C1)Cl)=O | C18H16ClNO3
